US06498172B1
5-(3-((3-(3-Chloro-phenyl)-propyl)-(pyridine-3-sulfonyl)-amino)-propyl)-thiophene-2-carboxylic acid
A solution of 5-(3-((3-(3-chloro-phenyl)-propyl)-(pyridine-3-sulfonyl)-amino)-propyl)-thiophene-2-carboxylic acid methyl ester prepared of Example 4, Step B (0.119 g, 0.241 mmol), in 5 mL EtOH and 0.72 mL 1N NaOH was stirred at room temperature overnight. The reaction mixture was adjusted to pH 6.2 and the layers were separated. The organic solution was washed with water, dried over MgSO4, filtered and concentrated in vacuo to afford the title compound (16 mg). 1H NMR (400 MHz, CDCl3) δ 8.00 (d, 1H, J=8), 7.70 (d, 1H, J=4), 7.30-7.60 (m, 6H), 6.75 (d, 1H, J=4), 3.20 (m, 4H), 2.95 (t, 2H, J=7), 2.60 t, 2H, J=7), 1.70-2.00 (m, 4H); MS 478 (M+1), 476 (M−1).

reactant | 5-(3-((3-(3-chloro-phenyl)-propyl)-(pyridine-3-sulfonyl)-amino)-propyl)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)CCCN(S(=O)(=O)C=1C=NC=CC1)CCCC1=CC(=CC=C1)Cl | C23H25ClN2O4S2
reactant | NaOH | 1N, 0.72 mL | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 5-(3-((3-(3-Chloro-phenyl)-propyl)-(pyridine-3-sulfonyl)-amino)-propyl)-thiophene-2-carboxylic acid | 16 mg | ClC=1C=C(C=CC1)CCCN(CCCC1=CC=C(S1)C(=O)O)S(=O)(=O)C=1C=NC=CC1 | C22H23ClN2O4S2
